US04357410
B. 4-(2-Hydrazino-5-pyridinesulfonamido)-1-hydroxy-N,N-dioctadecyl-2-naphthamide
A mixture of 12.7 g (0.0144 mole) 4-(2-chloro-5-pyridinesulfonamido)-1-hydroxy-N,N-dioctadecyl-2-naphthamide, 4.7 g 95% hydrazine, and 413 ml methanol was heated under reflux for 17 hours. The hot mixture was filtered and then chilled. The product was filtered off, washed first with cold methanol, then with water, and air dried, yielding 11.7 g (93%), mp 96°-8° C. after softening. A thin-layer chromatogram using 85/15 methylene chloride/acetone to elute, showed traces of impurities.

reactant | 4-(2-chloro-5-pyridinesulfonamido)-1-hydroxy-N,N-dioctadecyl-2-naphthamide | 0.0144 mole, 12.7 g | ClC1=NC=C(C=C1)S(=O)(=O)NC1=CC(=C(C2=CC=CC=C12)O)C(=O)N(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC | C52H84ClN3O4S
reactant | hydrazine | 4.7 g | NN | H4N2
reactant | methanol | 413 ml | CO | CH4O
solvent | methylene chloride acetone | C(Cl)Cl.CC(=O)C
product | 4-(2-Hydrazino-5-pyridinesulfonamido)-1-hydroxy-N,N-dioctadecyl-2-naphthamide | N(N)C1=NC=C(C=C1)S(=O)(=O)NC1=CC(=C(C2=CC=CC=C12)O)C(=O)N(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC | C52H87N5O4S
